US08912188B2
To a solution of methyl 2-(4-fluorophenyl)-3-(4-(pyridin-2-yl)-5,6-dihydropyridin-1(2H)-yl)quinoxaline-6-carboxylate (150 mg, 0.34 mmol) in ethyl acetate (30 ml) was added PtO2 (38 mg) and the reaction mixture was stirred at room temperature for 2 hours under an atmosphere of H2(g). The reaction mixture was added to water (100 ml), extracted with dichloromethane (3×30 mL), and the organic layers combined, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give the residue, which was purified via silica gel column chromatography (2% ethyl acetate in petroleum ether) to afford methyl 2-(4-fluorophenyl)-3-[4-(pyridin-2-yl)piperidin-1-yl]quinoxaline-6-carboxylate as a yellow solid (84 mg, 56%).

reactant | methyl 2-(4-fluorophenyl)-3-(4-(pyridin-2-yl)-5,6-dihydropyridin-1(2H)-yl)quinoxaline-6-carboxylate | 0.34 mmol, 150 mg | FC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1N1CC=C(CC1)C1=NC=CC=C1)C(=O)OC | C26H21FN4O2
reactant | water | 100 ml | O | H2O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
catalyst | PtO2 | 38 mg | O=[Pt]=O
product | methyl 2-(4-fluorophenyl)-3-[4-(pyridin-2-yl)piperidin-1-yl]quinoxaline-6-carboxylate | 84 mg, 56% | FC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1N1CCC(CC1)C1=NC=CC=C1)C(=O)OC | C26H23FN4O2
